US06172085B2
2,3-Dihydro-2,4,6,7-tetramethyl-2-[[4-(4-pyridyl)-1-piperidinyl]methyl]-5-benzofuranamine
In an autoclave, a mixture of 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine (0.85 g), 4-(4-piperidinyl)pyridine (0.97 g), and triethylamine (1.3 mL) was stirred under nitrogen gas at 180° C. for 15 hours. To this reaction mixture were added saturated aqueous NaHCO3 and ethyl acetate. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The pooled organic layer was washed with water and saturated aqueous NaCl, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=20.1) and crystallized from ethyl acetate/hexane to provide 0.77 g of the title compound. Yield 70%.

reactant | 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | 0.85 g | BrCC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C | C13H18BrNO
reactant | 4-(4-piperidinyl)pyridine | 0.97 g | N1CCC(CC1)C1=CC=NC=C1 | C10H14N2
reactant | triethylamine | 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3-Dihydro-2,4,6,7-tetramethyl-2-[[4-(4-pyridyl)-1-piperidinyl]methyl]-5-benzofuranamine | 0.77 g, Yield 70% | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCC(CC2)C2=CC=NC=C2 | C23H31N3O
